US04835175
A solution of 1.14 g of 4-aminoacetyl-7-hydroxyindole-2-carboxylic acid methyl ester hydrochloride in 200 ml of methanol is combined with 110 mg of 10% palladium catalyst on active carbon and hydrogenated for 3 hours under shaking at normal pressure. The reaction mixture is then filtered and the filtrate evaporated to dryness. The residue is vigorously stirred with acetone/methanol 9/1; the resultant product is filtered off and dried under vacuum, thus obtaining 1.0 g of 4-(2-amino-1-hydroxyethyl)-7-hydroxyindole-2-carboxylic acid methyl ester hydrochloride, decomposition point 280° C.

reactant | 4-aminoacetyl-7-hydroxyindole-2-carboxylic acid methyl ester hydrochloride | 1.14 g | Cl.COC(=O)C=1NC2=C(C=CC(=C2C1)C(CN)=O)O
solvent | methanol | 200 ml | CO | CH4O
catalyst | palladium | 110 mg | [Pd] | Pd
product | 4-(2-amino-1-hydroxyethyl)-7-hydroxyindole-2-carboxylic acid methyl ester hydrochloride | 1.0 g | Cl.COC(=O)C=1NC2=C(C=CC(=C2C1)C(CN)O)O | InChI=1S/C12H14N2O4.ClH/c1-18-12(17)8-4-7-6(10(16)5-13)2-3-9(15)11(7)14-8;/h2-4,10,14-16H,5,13H2,1H3;1H
